US08563583B2
A mixture of 2-(4-(difluoromethoxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane Part A (62.6 mg, 0.23 mmol), 4-chloro-1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyridin-2(1H)-one Part D of Procedure 9 (50 mg, 0.15 mmol), Potassium phosphate tribasic (65.6 mg, 0.31 mmol), Palladium (II) acetate (1.7 mg, 7.7 μmol), and 2-DICYCLOHEXYLPHOSPHINO-2′,6′-DIMETHOXY-1,1′-BIPHENYL (3.1 mg, 7.72 μmol) in Toluene (1.4 mL) and Water (0.15 mL) was stirred at 100° C. for 16 h. The mixture was filtered, diluted with EtOAc, washed with sat. NaHCO3, dired (MgSO4), and concentrated. The crude was purified using HPLC (Phen Luna Axia C18 5μ 10:90:0.1 to 90:10:0.1 MeOH—H2O-TFA to afford 4-(4-(difluoromethoxy)phenyl)-1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyridin-2(1H)-one B-9 (26.26 mg, 0.057 mmol, 36.7% yield) as a white solid. LC/MS 432 (M+H)+, tR 0.87 min (method 5). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.63 (2H, d), 7.42 (1H, d, J=7.04 Hz), 7.24 (2H, d, J=8.58 Hz), 6.95-7.03 (2H, m), 6.90-6.93 (1H, m), 6.86 (1H, s), 6.48 (1H, d, J=7.26 Hz), 6.40-6.78 (1H, m), 3.88 (3H, s), 3.87 (2H, s), 1.37 (6H, s)

reactant | 2-(4-(difluoromethoxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | FC(OC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C13H17BF2O3
reactant | 4-chloro-1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyridin-2(1H)-one | ClC1=CC(N(C=C1)C1=CC(=C(C=C1)OCC(C)(C)O)OC)=O | C16H18ClNO4
reactant | Potassium phosphate tribasic | 0.31 mmol, 65.6 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 2-DICYCLOHEXYLPHOSPHINO-2′,6′-DIMETHOXY-1,1′-BIPHENYL | 7.72 μmol, 3.1 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | Toluene | 1.4 mL | C1(=CC=CC=C1)C | C7H8
solvent | Water | 0.15 mL | O | H2O
catalyst | Palladium (II) acetate | 7.7 μmol, 1.7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(4-(difluoromethoxy)phenyl)-1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyridin-2(1H)-one | 36.7% yield | FC(OC1=CC=C(C=C1)C1=CC(N(C=C1)C1=CC(=C(C=C1)OCC(C)(C)O)OC)=O)F | C23H23F2NO5
